2142-05-15 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2142-5-14**]:
   - Intubated for increasing somnolence
   - A line placed
   - Weaned dopamine, but had to restart given drop in BP following
   carvedilol dosing and aggressive diuresis
   - Discontinued carvedilol and Ace-I
   - Decreased vent settings to Vt 500 as PCO2 50s, goal should be 60s,
   advance ET tube 3cm
   - Negative 1.2 L tonight at midnight
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   worsening of ch
   Lipitor (Oral) (Atorvastatin Calcium)
   Muscle pains;
   Colchicine
   Shortness of br
   Last dose of Antibiotics:
   Ceftazidime - [**2142-5-14**] 02:00 PM
   Vancomycin - [**2142-5-14**] 02:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 1.8 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Naloxone (Narcan) - [**2142-5-14**] 10:25 AM
   Lansoprazole (Prevacid) - [**2142-5-14**] 03:00 PM
   Dextrose 50% - [**2142-5-14**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 82 (80 - 85) bpm
   BP: 110/62(74) {75/47(54) - 157/73(94)} mmHg
   RR: 12 (5 - 22) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  1,946 mL
                                                                    239 mL
   PO:
             TF:
   IVF:
                                                                  1,831 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  2,395 mL
                                                                  1,720 mL
   Urine:
                                                                  2,395 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                 -1,481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 502 (502 - 502) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.46/52/76.[**Numeric Identifier 299**]/31/10
   Ve: 5.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GEN: intubated, sedated
   HEENT: sclera anicteric MMM
   NECK: supple with JVP @ angle of jaw
   CV: reg rate nl S1S2 II/VI holosystolic murmur at apex no S3S4
   PULM: diminished bilaterally bibasilar rales scattered end-insp wheezes
   no rhonchi
   ABD: soft obese NTND NABS
   EXT: warm, dry diminished distal pulses 3+ pitting edema to knees bilat
   no calf tenderness
   NEURO: A&Ox3, moving all 4 extremities
   Labs / Radiology
   151 K/uL
   10.4 g/dL
   71 mg/dL
   1.4 mg/dL
   31 mEq/L
   4.2 mEq/L
   34 mg/dL
   98 mEq/L
   137 mEq/L
   31.8 %
   9.1 K/uL
        [image002.gif]
                             [**2142-5-14**]  10:37 AM
                             [**2142-5-14**]  01:13 PM
                             [**2142-5-14**]  05:09 PM
                             [**2142-5-14**]  05:22 PM
                             [**2142-5-15**]  04:17 AM
   WBC
   9.1
   Hct
   31.8
   Plt
   151
   Cr
   1.4
   1.4
   TCO2
   39
   34
   38
   Glucose
   113
   71
   Other labs: PT / PTT / INR:40.9//4.5, Lactic Acid:0.7 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   TTE: There is mild symmetric left ventricular hypertrophy. The left
   ventricular cavity is severely dilated. There is an apical left
   ventricular aneurysm. No masses or thrombi are seen in the left
   ventricle. [Intrinsic left ventricular systolic function is likely more
   depressed given the severity of valvular regurgitation.] The estimated
   cardiac index is depressed (<2.0L/min/m2). The number of aortic valve
   leaflets cannot be determined. The aortic valve leaflets are mildly
   thickened (?#). There is no aortic valve stenosis. The mitral valve
   leaflets are mildly thickened. There is no mitral valve prolapse. Mild
   to moderate ([**2-2**]+) mitral regurgitation is seen. [Due to acoustic
   shadowing, the severity of mitral regurgitation may be significantly
   UNDERestimated.] There is mild pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   IMPRESSION: Severely dilated and hypokinetic left ventricle. The
   inferior and inferolateral walls have relatively preserved function.
   There is a dyskinetic apical aneurysm. No thrombus is seen, even after
   the addition of contrast. At least mild to moderate mitral
   regurgitation.
   Assessment and Plan
   79 y/o M h/o IDDM, CAD s/p CABG, chronic systolic CHF (LVEF 25%), CHB
   s/p pacer/BiV ICD, AFib on coumadin a/w acute on chronic systolic CHF
   due to inadequate diuresis, and HCAP.
   .
   #PUMP: history/exam/bnp/cxr consistent w/ decompensated CHF, likely [**3-5**]
   inadequate diuresis/afterload reduction.  Echo yesterday showed
   severely dilated and hypokinetic LV with apical aneurysm, however no
   thrombus seen. CXR improving after diuresis, thus decreasing likelihood
   of pna. Will cont to monitor for fever and wbc. Consider tube
   secretions for culture if spikes.
   -lasix drip with dopamine for maintenance of blood pressures. goal [**2-2**]
   L neg
   -cont eplerenone, digoxin
   -cont carvedilol, lisinopril, uptitrate as BP allows for add'l
   afterload reduction
   -low Na diet
   -1.5 L PO fluid restriction
   -strict I/O's
   -daily weights
   -INR supratherapeutic, will resume coumadin when INR [**3-6**]
   .
   #Acute on chronic respiratory acidosis - initially thought to be likely
   [**3-5**] oversedation in the setting of polypharmacy. briefly responded to
   narcan..
   -Intubated for somnolence, likely chronic COPD with worsening from CHF
   and pneumonia
   -Likely chronic CO2 retainer, goal PCO2 should be around 60
   -Attempt to wean sedation today subsequently wean vent settings to
   CPAP; check risbi and consider extubation
   - will d/c abx since cxr looks beter after diuresis. If fever or
   leukocytosis then will restart vanc/zosyn
   .
   #RHYTHM: V-paced, underlying rhythm likely AFib; INR supratherapeutic
   -BIV pacer interrogated yesterday changed settings so that coronary
   sinus lead is working; ecg post setting change consistent with
   biventricular pacing
   -cont digoxin, BB for rate control
   -resume coumadin when INR 2.0-3.0
   .
   #CAD: no acute issues
   -complete ROMI
   -cont ASA, ACEi, BB
   .
   #HCAP - no fever, sputum prod., WBC# despite RML opacity on CXR; O2
   requirement most attributable to acute CHF
   -vanc/ceftaz (d1 = [**5-13**])  continue for at least 10 day course
   -blood, sputum Cx pending
   .
   #IDDM
   -hold oral hypoglycemics
   -cont basal, SS insulin
   .
   #Gout - no acute issues
   -cont methylpred, allopurinol
   -methylpred to be tapered to 8 mg daily on [**5-17**]
   .
   #CRI - Cr @ baseline
   -renally dose meds
   -monitor UOP
   .
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-5-14**] 09:35 AM
   20 Gauge - [**2142-5-14**] 11:00 AM
   Arterial Line - [**2142-5-14**] 12:46 PM
   Prophylaxis:
   DVT:  INR supratherapeutic
   Stress ulcer:  PPI
   VAP:  Chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   I reviewed overnight course and data.Much better,diuresing+=.
   I examined Pt and agree with Dr.[**Last Name (STitle) **]
s note and plan to extubated later
   today
   Spent 35mins over case.
   Chnarles [**Doctor Last Name 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2142-5-15**] 10:37 ------

2142-05-16 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - CXR showed clearing of previous opacities
   - Dopa weaned off
   - Was negative 2L so no further lasix given
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   worsening of ch
   Lipitor (Oral) (Atorvastatin Calcium)
   Muscle pains;
   Colchicine
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2142-5-14**] 02:30 PM
   Ceftazidime - [**2142-5-15**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2142-5-15**] 08:00 AM
   Naloxone (Narcan) - [**2142-5-15**] 03:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-16**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 81 (76 - 84) bpm
   BP: 134/66(85) {77/42(54) - 142/70(91)} mmHg
   RR: 23 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,279 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                  1,129 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                    885 mL
   Urine:
                                                                  3,770 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,491 mL
                                                                   -808 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 530 (405 - 530) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.29/73.[**Numeric Identifier 252**]/71/33/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: awake alert but sleepy
   HEENT: sclera anicteric MMM
   NECK: supple with JVP @ angle of jaw
   CV: reg rate nl S1S2 II/VI holosystolic murmur at apex no S3S4
   PULM: diminished bilaterally bibasilar rales scattered end-insp wheezes
   no rhonchi
   ABD: soft obese NTND NABS
   EXT: warm, dry diminished distal pulses 3+ pitting edema to knees bilat
   no calf tenderness
   NEURO: A&Ox3, moving all 4 extremities
   Labs / Radiology
   171 K/uL
   10.6 g/dL
   164 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.4 mEq/L
   38 mg/dL
   97 mEq/L
   141 mEq/L
   35.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2142-5-14**]  05:22 PM
                             [**2142-5-15**]  04:17 AM
                             [**2142-5-15**]  09:00 AM
                             [**2142-5-15**]  01:15 PM
                             [**2142-5-15**]  01:27 PM
                             [**2142-5-15**]  01:32 PM
                             [**2142-5-15**]  02:27 PM
                             [**2142-5-15**]  02:51 PM
                             [**2142-5-16**]  04:36 AM
                             [**2142-5-16**]  04:42 AM
   WBC
   9.1
   12.0
   Hct
   31.8
   35.0
   Plt
   151
   171
   Cr
   1.4
   1.4
   1.5
   TCO2
   38
   35
   25
   29
   38
   35
   37
   Glucose
   71
   55
   164
   Other labs: PT / PTT / INR:33.1/39.0/3.5, ALT / AST:15/19, Alk Phos / T
   Bili:92/0.9, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:333 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   79 y/o M h/o IDDM, CAD s/p CABG, chronic systolic CHF (LVEF 25%), CHB
   s/p pacer/BiV ICD, AFib on coumadin a/w acute on chronic systolic CHF
   due to inadequate diuresis.
   .
   #  Chronic systolic heart failure:  Decompensated  likely [**3-5**]
   inadequate diuresis/afterload reduction.  Echo showed severely dilated
   and hypokinetic LV with apical aneurysm, however no thrombus seen. CXR
   improving after diuresis, thus decreasing likelihood of pna. Will cont
   to monitor for fever and wbc.
   -lasix drip with dopamine as needed for maintenance of blood pressures.
   goal 1-2 L neg
   -cont eplerenone, digoxin
   -carvedilol and lisinopril discontinued on the day of admission
   secondary to low blood pressures
   -low Na diet
   -1.5 L PO fluid restriction
   -strict I/O's
   -daily weights
   -INR supratherapeutic, will resume coumadin when INR [**3-6**]
   #Acute on chronic respiratory acidosis
 Likely secondary to
   decompensated CHF with underlying COPD.
   -Intubated for somnolence, able to be extubated yesterday
   -Likely chronic CO2 retainer, goal PCO2 should be around 60
   -Will start levoquin for COPD exacerbation
   - Goal O2 sat should be lower because he is a chronic COPD retainer
   - Will need sleep study as outpatient and potentially needs CPAP at
   home
   #RHYTHM: V-paced, underlying rhythm likely AFib; INR supratherapeutic
   -BIV pacer interrogated changed settings so that coronary sinus lead is
   working; ecg post setting change consistent with biventricular pacing
   -cont digoxin, BB for rate control
   -resume coumadin when INR 2.0-3.0
   .
   #CAD: no acute issues
   -cont [**Last Name (LF) 119**], [**First Name3 (LF) 124**] restart ACEi, BB when blood pressures stable and after
   diuresis
   #HCAP - no fever, sputum prod., WBC# despite RML opacity on CXR; O2
   requirement most attributable to acute CHF
   -discontinued antibiotics yesterday
   -blood, sputum Cx pending
   #IDDM
   -hold oral hypoglycemics
   -cont basal, SS insulin
   #Gout - no acute issues
   -cont methylpred, allopurinol
   -methylpred to be tapered to 8 mg daily on [**5-17**]
   #CRI - Cr @ baseline
   -renally dose meds
   -monitor UOP
   ICU Care
   Nutrition: Low salt diet, fluid restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-5-14**] 09:35 AM
   20 Gauge - [**2142-5-14**] 11:00 AM
   Arterial Line - [**2142-5-14**] 12:46 PM
   Prophylaxis:
   DVT:  supratherapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU and potentially call out to [**Hospital Ward Name 383**] 3 today
   ------ Protected Section ------
   I reviewed data and examined Pt.Much improved.
   Agree with Dr.[**Last Name (STitle) 397**].s note.
   Spent 35 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2142-5-16**] 15:50 ------